US05702642
In a reactor, 10.0 g of 4-bromophenol, 7.95 g of ethylene bromohydrin, 16.0 g of K2CO3, and 300 ml of acetone were charged, and stirred and refluxed for 50 hours to give a reaction solution. The reaction solution was poured into water, extracted with toluene, washed with water, and thereafter dried over sodium sulfate anhydride, and the solvent was evaporated and the residue was distilled under reduced pressure in GTO (glass tube oven) to give 5.55 g (Y., 44.3%) of 1-bromo-4-(2-hydroxyethoxy) benzene.

reactant | 4-bromophenol | 10.0 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | ethylene bromohydrin | 7.95 g | C(CO)Br | C2H5BrO
reactant | K2CO3 | 16.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 300 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 1-bromo-4-(2-hydroxyethoxy) benzene | 5.55 g, 44.3% | BrC1=CC=C(C=C1)OCCO | C8H9BrO2
